US05498754
That is, CH3SO2F is subjected to electrolytic fluorination using HF to obtain CF3SO2F. The resultant CF3SO2F is subjected to hydrolysis using KOH to obtain CF3SO3K. The CF3SO3K obtained is subjected to acid decomposition with the use of concentrated H2SO4 and if necessary, additionally fuming sulfuric acid at elevated temperature and under reduced pressure to obtain a CF3SO3H-containing reaction product. The reaction product obtained is subjected to simple distillation at a temperature of from 120° to 200° C. and under condition of reduced pressure of from 50 to 10 Torr to obtain a distillate of CF3SO3H. Thus, there is obtained a crude product of CF3SO3H. This CF3SO3H product still contains a certain amount of those impurities as above described.

reactant | CF3SO2F | C(F)(F)(F)S(=O)(=O)F | CF4O2S
reactant | KOH | [OH-].[K+]
product | CF3SO3K | C(F)(F)(F)S(=O)(=O)O[K] | InChI=1S/CHF3O3S.K/c2-1(3,4)8(5,6)7;/h(H,5,6,7);/q;+1/p-1
